US07186742B2
2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(2-methyl-thiazol-4-yl)-benzamide
A mixture of 2-chloro-5-(2-methyl-thiazol-4-yl)-benzoic acid (7 mg, 0.027 mmol), 1-aminomethyl-cycloheptanol (6 mg, 0.03 mmol), 1-hydroxybenzotriazole (5 mg, 0.03 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6 mg, 0.03 mmol) and triethylamine (5 μL, 0.03 mmol) in N,N-dimethylformamide (0.5 mL) was stirred at room temperature for 16 h. The mixture was diluted with ethyl acetate and washed with 5% citric acid, water, then brine. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography (1:1 ethyl acetate-hexanes) to afford the title compound (3.4 mg).

reactant | 2-chloro-5-(2-methyl-thiazol-4-yl)-benzoic acid | 0.027 mmol, 7 mg | ClC1=C(C(=O)O)C=C(C=C1)C=1N=C(SC1)C | C11H8ClNO2S
reactant | 1-aminomethyl-cycloheptanol | 0.03 mmol, 6 mg | NCC1(CCCCCC1)O | C8H17NO
reactant | 1-hydroxybenzotriazole | 0.03 mmol, 5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.03 mmol, 6 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.03 mmol, 5 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(2-methyl-thiazol-4-yl)-benzamide | 3.4 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C=1N=C(SC1)C | C19H23ClN2O2S
